US07705023B2
(b) 5-(4-Cyclohexylphenyl)-1-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester
A mixture of 5-bromo-1-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester (154 mg, 0.38 mmol), K3PO4 (282 mg, 1.83 mmol), Pd(OAc)2 (4.5 mg, 0.02 mmol), tri(o-tolyl)phosphine (12 mg, 0.04 mmol), and toluene (3.5 mL) was stirred under argon for 25 min at room temperature. 4-Cyclohexylphenylboronic acid (117 mg, 0.57 mmol) in EtOH (0.5 mL) was added and the mixture was heated at reflux for 1 h. The mixture was allowed to cool, poured into NaHCO3 (aq. sat.), and extracted wait EtOAc. The combined extracts were washed with brine, dried over Na2SO4, concentrated and purified by chromatography to give the sub-title compound (170 mg, 93%).

reactant | 5-bromo-1-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester | 0.38 mmol, 154 mg | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)Br)C1=CC=C(C=C1)OC(C)C | C20H20BrNO3
reactant | K3PO4 | 1.83 mmol, 282 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tri(o-tolyl)phosphine | 0.04 mmol, 12 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 4-Cyclohexylphenylboronic acid | 0.57 mmol, 117 mg | C1(CCCCC1)C1=CC=C(C=C1)B(O)O | C12H17BO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 0.5 mL | CCO | C2H6O
catalyst | Pd(OAc)2 | 0.02 mmol, 4.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Cyclohexylphenyl)-1-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester | 170 mg, 93% | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)C1=CC=C(C=C1)C1CCCCC1)C1=CC=C(C=C1)OC(C)C | C32H35NO3
